US07067517B2
3-[4-(tert-Butyl-dimethyl-silanyloxy)-piperidine-1-carbonyl]-1-methyl-3H-imidazol-1-ium iodide
Methyl iodide (113.5 g, 0.80 mol) was added to a stirred solution of [4-(tert-butyl-dimethyl-silanyloxy)-piperidin-1-yl]-imidazol-1-yl-methanone (61.9 g, 0.20 mol) in acetonitrile (400 mL). After stirring overnight at room temperature the solvent was evaporated in vacuo. The residue was washed with ethyl acetate:heptane and dried in a vacuum oven at 45° C., yielding the title compound (60.92 g, 68% yield over three steps) as a white solid

reactant | Methyl iodide | 0.80 mol, 113.5 g | CI | CH3I
reactant | [4-(tert-butyl-dimethyl-silanyloxy)-piperidin-1-yl]-imidazol-1-yl-methanone | 0.20 mol, 61.9 g | C(C)(C)(C)[Si](OC1CCN(CC1)C(=O)N1C=NC=C1)(C)C | C15H27N3O2Si
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | 3-[4-(tert-Butyl-dimethyl-silanyloxy)-piperidine-1-carbonyl]-1-methyl-3H-imidazol-1-ium iodide | 60.92 g, 68% yield | [I-].C(C)(C)(C)[Si](OC1CCN(CC1)C(=O)N1C=[N+](C=C1)C)(C)C | InChI=1S/C16H30N3O2Si.HI/c1-16(2,3)22(5,6)21-14-7-9-18(10-8-14)15(20)19-12-11-17(4)13-19;/h11-14H,7-10H2,1-6H3;1H/q+1;/p-1
